.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0807SQ-6N9
* Inductance = 6.9nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1GHz-9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0807SQ-6N9_freq port1 port2 PARAMS: Cpar=0.0711pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=5.24
+ R2=0.1721
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=425
+ L_EL=1.81
+ L_F0=312E6
+ PkZ=0
.ends 0807SQ-6N9_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0807SQ-10N
* Inductance = 10nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1GHz-7.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0807SQ-10N_freq port1 port2 PARAMS: Cpar=0.0618pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=4.28
+ R2=0.2561
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=632
+ L_EL=1.81
+ L_F0=312E6
+ PkZ=0
.ends 0807SQ-10N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0807SQ-14N
* Inductance = 14nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1GHz-7GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0807SQ-14N_freq port1 port2 PARAMS: Cpar=0.0519pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=8.16
+ R2=0.3371
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=848
+ L_EL=1.81
+ L_F0=312E6
+ PkZ=0
.ends 0807SQ-14N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0807SQ-17N
* Inductance = 17nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1GHz-6GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0807SQ-17N_freq port1 port2 PARAMS: Cpar=0.0335pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=200
+ R2=0.4191
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=1060
+ L_EL=1.81
+ L_F0=312E6
+ PkZ=0
.ends 0807SQ-17N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0807SQ-22N
* Inductance = 22nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1GHz-5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0807SQ-22N_freq port1 port2 PARAMS: Cpar=0.0175pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=200
+ R2=0.5491
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=1360
+ L_EL=1.81
+ L_F0=312E6
+ PkZ=0
.ends 0807SQ-22N_freq

