.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0908SQ-8N1
* Inductance = 8.1nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1GHz-7.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0908SQ-8N1_freq port1 port2 PARAMS: Cpar=0.0799pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=3.02
+ R2=0.1571
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=505
+ L_EL=1.81
+ L_F0=312E6
+ PkZ=0
.ends 0908SQ-8N1_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0908SQ-12N
* Inductance = 12nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1GHz-7GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0908SQ-12N_freq port1 port2 PARAMS: Cpar=0.0759pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=6.04
+ R2=0.2411
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=758
+ L_EL=1.81
+ L_F0=312E6
+ PkZ=0
.ends 0908SQ-12N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0908SQ-17N
* Inductance = 17nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1GHz-5.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0908SQ-17N_freq port1 port2 PARAMS: Cpar=0.056pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=5.95
+ R2=0.3281
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=1068
+ L_EL=1.81
+ L_F0=312E6
+ PkZ=0
.ends 0908SQ-17N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0908SQ-22N
* Inductance = 22nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1GHz-5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0908SQ-22N_freq port1 port2 PARAMS: Cpar=0.0424pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=224
+ R2=0.4121
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=1328
+ L_EL=1.81
+ L_F0=312E6
+ PkZ=0
.ends 0908SQ-22N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0908SQ-27N
* Inductance = 27nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1GHz-4GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0908SQ-27N_freq port1 port2 PARAMS: Cpar=0.0268pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=448
+ R2=0.5261
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=1678
+ L_EL=1.81
+ L_F0=312E6
+ PkZ=0
.ends 0908SQ-27N_freq

